US07074777B2
(2) Synthesis of 20-(2-ethyl-2-hydroxybutoxy)-1α,3β-dihydroxy-20-methylpregna-5,7,16-triene
1α,3β-Bis(tert-butyldimethylsilyloxy)-20-(2-ethyl-2-hydroxybutoxy)-20-methylpregna-5,7,16-triene (32.0 mg, 0.0475 mmol), a 1M tetra-n-butylammonium fluoride tetrahydrofuran solution (0.3 ml, 0.3 mmol) and tetrahydrofuran (0.5 ml) were subjected to reaction using a procedure similar to that of Example 5(2) (reflux under heating for 16 hours), worked up and the thus obtained residue was purified by preparative thin layer chromatography (1 sheet (0.5 mm thickness), hexane:ethyl acetate:ethanol=10:5:1, developed twice) to give the titled compound (19.8 mg, 94%) as a colorless oil.

reactant | 1α,3β-Bis(tert-butyldimethylsilyloxy)-20-(2-ethyl-2-hydroxybutoxy)-20-methylpregna-5,7,16-triene | 0.0475 mmol, 32.0 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)OCC(CC)(O)CC)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C40H72O4Si2
reactant | tetra-n-butylammonium fluoride tetrahydrofuran | 0.3 mmol, 1M, 0.3 ml | O1CCCC1.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 20-(2-ethyl-2-hydroxybutoxy)-1α,3β-dihydroxy-20-methylpregna-5,7,16-triene | 19.8 mg, 94% | C(C)C(COC(C)(C1=CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)C)(CC)O | C28H44O4
